US07807672B2
Preparation of 3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester
A mixture of 1-benzyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester (373 mg, 1.42 mmol), ammonium formate (358 mg, 5.68 mmol), 10% Pd/C (100 mg) and methanol (6 ml) was refluxed overnight. The mixture was filtered through Celite, washed with ethyl acetate. The combined filtrate was concentrated and the residue was taken into ethyl acetate, washed with small amount of water. Aqueous layer was isolated, extracted with dichloromethane three times. The dichloromethane extracts were combined with previous ethyl acetate extracts and dried over MgSO4. Evaporation of solvents provided the title compound as oil (140 mg, 57%).

reactant | 1-benzyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 1.42 mmol, 373 mg | COC(=O)C1(CN(CC1)CC1=CC=CC=C1)COC | C15H21NO3
reactant | ammonium formate | 5.68 mmol, 358 mg | C(=O)[O-].[NH4+]
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | methanol | 6 ml | CO | CH4O
product | 3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 140 mg, 57% | COC(=O)C1(CNCC1)COC | C8H15NO3
